US06525064B1
1-(2-{1-[4-(4-Dimethylaminophenylazo)benzenesulfonyl]piperidin-4-yl}ethyl)-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine
Using the method of Examples 49-56, 4-dimethylaminoazobenzene-4′-sulfonyl chloride was reacted with 2-(ethoxymethyl)-6,7-dimethyl-1-(2-piperidin-4-ylethyl)-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired product. The observed accurate mass was 619.3185.

reactant | 4-dimethylaminoazobenzene-4′-sulfonyl chloride | CN(C)C1=CC=C(C=C1)N=NC2=CC=C(C=C2)S(=O)(=O)Cl | C14H14ClN3O2S
reactant | 2-(ethoxymethyl)-6,7-dimethyl-1-(2-piperidin-4-ylethyl)-1H-imidazo[4,5-c]pyridin-4-amine | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCC1CCNCC1 | C18H29N5O
product | 1-(2-{1-[4-(4-Dimethylaminophenylazo)benzenesulfonyl]piperidin-4-yl}ethyl)-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | CN(C1=CC=C(C=C1)N=NC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)CCN1C(=NC=2C(=NC(=C(C21)C)C)N)COCC)C | C32H42N8O3S
